US07456200B2
Step 1: 5-Methoxy-pyridine-2-carboxylic acid methyl ester:
5-Methoxy-2-methyl-pyridine (700 mg, 5.69 mmol) was dissolved in H2O (20 ml) and heated to 80° C. KMnO4 (4 g, 25.3 mmol) was added in portion to the solution over 1 h. After stirring at 80° C. for 5 h the mixture was filtrated and the filtrate was washed with H2O (60° C.). The combined water phase was concentrated. DMF (20 ml), K2CO3 (785 mg, 5.7 mmol) followed by MeI (540 ml, 8.6 mmol) was added to the remaining residue and the mixture was heated to 80° C. on. The reaction was cooled to ambient temperature and H2O was added and the mixture was extracted three times with toluene. The combined organic phases were dried and concentrated. Flashchromatography (SiO2, Heptane/EtOAc 1:1) afforded 210 mg (22%) of the title compound. 1H NMR (CDCl3): d ppm 3.93 (s, 3 H) 4.00 (s, 3 H) 7.23 (m, 1 H) 8.13 (d, 1 H) 8.40 (d, 1 H). Step 2: 4-Ethyl-5-(5-methoxy-pyridin-2-yl)-2,4-dihydro-[1,2,4]triazole-3-thione: NaOMe (4 ml, 4.0 mmol, 1M) was added to a solution of 5-Methoxy-pyridine-2-carboxylic acid methyl ester (200 mg, 1.2 mmol), 4-ethyl-3-thiosemicarbazide (145 mg, 1.2 mmol) in MeOH (10 ml) and the mixture was heated to 70° C. on. The reaction was cooled to ambient temperature and evaporated to dryness. H2O (10 ml) was added to the residue and the mixture was acidified with concentrated hydrochloric acid and the title compound 50 mg (18%) was collected by filtration. LC-MS (M++1): 237.

reactant | 5-Methoxy-2-methyl-pyridine | 5.69 mmol, 700 mg | COC=1C=CC(=NC1)C | C7H9NO
reactant | KMnO4 | 25.3 mmol, 4 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | K2CO3 | 5.7 mmol, 785 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 8.6 mmol, 540 ml | CI | CH3I
solvent | H2O | 20 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-Methoxy-pyridine-2-carboxylic acid methyl ester | 210 mg, 22% | COC(=O)C1=NC=C(C=C1)OC | C8H9NO3
